US08258144B2
4-(5-cyano-4-(cyclopropylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzenesulfonamide
A mixture of 2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (150 mg, 0.387 mmol), 4-aminobenzenesulfonamide (103 mg, 0.599 mmol) and trimethylsilyl chloride (0.200 mL, 1.58 mmol) in nBuOH (4 mL) was stirred at 135° C. for 20 h. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound (45 mg). MS 370.3 (M+H); UV 202.8, 254.6, 305.0 nm.

reactant | 2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 0.387 mmol, 150 mg | ClC=1N=C(C2=C(N1)N(C=C2C#N)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C17H14ClN5O2S
reactant | 4-aminobenzenesulfonamide | 0.599 mmol, 103 mg | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 4 mL | C(CCC)O | C4H10O
product | 4-(5-cyano-4-(cyclopropylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzenesulfonamide | 45 mg | C(#N)C1=CNC=2N=C(N=C(C21)NC2CC2)NC2=CC=C(C=C2)S(=O)(=O)N | C16H15N7O2S
